US08957102B2
1,5-Dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxylic acid
To a mixture of 1-benzyl-5-methyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxaldehyde (1 g, 4.624 mmol) in butyl alcohol were added to NaClO2 (1.254 g, 13.873 mmol) in an aqueous solution and potassium phosphate monobasic monohydrate (3.146 g, 23.12 mmol) in an aqueous solution slowly at 0° C. The resulting reaction mixture was slowly heated to room temperature and stirred for 10 hours. NaClO3 (1 g) was further added while monitoring the reaction. Following the addition of sodium chlorite, the reaction mixture was stirred and then extracted with ethyl acetate. The organic layer was washed with, dried with Na2SO4 and then filtered. The filtrate was concentrated under reduced pressure. The resulting residue was washed with 20% ethyl acetate solution in small amount of hexane. The target compound was obtained as a white solid (808 mg, 3.48 mmol, 75% yield).

reactant | 1-benzyl-5-methyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxaldehyde | 4.624 mmol, 1 g | C(C1=CC=CC=C1)N1N(C(C(=C1C)C=O)=O)C1=CC=CC=C1 | C18H16N2O2
reactant | NaClO2 | 13.873 mmol, 1.254 g | [O-]Cl=O.[Na+]
reactant | sodium chlorite | Cl(=O)[O-].[Na+]
solvent | butyl alcohol | C(CCC)O | C4H10O
product | 1,5-Dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxylic acid | 3.48 mmol, 808 mg, 75% yield | CN1N(C(C(=C1C)C(=O)O)=O)C1=CC=CC=C1 | C12H12N2O3
